US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenylaminoethyl)-methylamine
Here, 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane (9 g, 0.0336 mol) is heated to 130° C. for 30 minutes with N-(2-phenylaminoethyl)-methylamine (11 g, 0.073 mol). After cooling, the reaction mixture is distributed between water and diethylether. The organic phase is separated, dried over sodium sulfate and concentrated by evaporation. The residue is recrystallized from toluene/petroleum ether.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | 0.0336 mol, 9 g | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-(2-phenylaminoethyl)-methylamine | 0.073 mol, 11 g | C1(=CC=CC=C1)NCCNC | C9H14N2
reactant | water | O | H2O
solvent | diethylether | C(C)OCC | C4H10O
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenylaminoethyl)-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCNC2=CC=CC=C2)C)=O)C=C1OC | C24H33N3O3
